US07524813B2
4-Acetyl-N-((5S)-5-amino-5-carbamoylpentyl)benzamide
1.65 g of the title compound was prepared as described for (2S)-2-amino-6-(4-oxo-4-phenylbutyrylamino)hexanoic acid amide, using 4-acetylbenzoic acid instead of benzoylpropionic acid.

reactant | (2S)-2-amino-6-(4-oxo-4-phenylbutyrylamino)hexanoic acid amide | N[C@H](C(=O)N)CCCCNC(CCC(C1=CC=CC=C1)=O)=O | C16H23N3O3
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-Acetyl-N-((5S)-5-amino-5-carbamoylpentyl)benzamide | 1.65 g | C(C)(=O)C1=CC=C(C(=O)NCCCC[C@@H](C(N)=O)N)C=C1 | C15H21N3O3
